US06451734B1
5-(2,3-Dichloro-4-methoxybenzyl)-1,2-dihydro-2-methyl-3H-pyrazol-3-one (No. IIbc.9)
46.2 g (0.16 mol) of methyl 4-(2,3-dichloro-4-methoxyphenyl)-3-oxobutyrate and 8.1 g (0.18 mol) of methylhydrazine were reacted by the method of Example 1. Yield: 30.8 g;

reactant | methyl 4-(2,3-dichloro-4-methoxyphenyl)-3-oxobutyrate | 0.16 mol, 46.2 g | ClC1=C(C=CC(=C1Cl)OC)CC(CC(=O)OC)=O | C12H12Cl2O4
reactant | methylhydrazine | 0.18 mol, 8.1 g | CNN | CH6N2
product | 5-(2,3-Dichloro-4-methoxybenzyl)-1,2-dihydro-2-methyl-3H-pyrazol-3-one | ClC1=C(CC2=CC(N(N2)C)=O)C=CC(=C1Cl)OC | C12H12Cl2N2O2
